US06372740B1
A mixture of 7,9-dihydro-9-methyl-2-phenyl-8H-purin-8-one (22.6 g), ethyl chloroacetate (13.5 g), potassium carbonate (15.2 g) and dimethylformamide (250 ml) is stirred at room temperature for one hour. To the reaction mixture are added water and chloroform, and the chloroform layer is separated, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give crude ethyl 8,9-dihydro-9-methyl-8-oxo-2-phenyl-7H-purin-7-acetate (26 g).

reactant | 7,9-dihydro-9-methyl-2-phenyl-8H-purin-8-one | 22.6 g | CN1C2=NC(=NC=C2NC1=O)C1=CC=CC=C1 | C12H10N4O
reactant | ethyl chloroacetate | 13.5 g | ClCC(=O)OCC | C4H7ClO2
reactant | potassium carbonate | 15.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | ethyl 8,9-dihydro-9-methyl-8-oxo-2-phenyl-7H-purin-7-acetate | 26 g | CN1C2=NC(=NC=C2N(C1=O)CC(=O)OCC)C1=CC=CC=C1 | C16H16N4O3
